US07790898B2
[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-thiophen-2-yl-methanone
The compound of Example 14 was prepared according to the general preparation protocol A from thiophene-2-carbonyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | thiophene-2-carbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | [3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-thiophen-2-yl-methanone | OC1(CN(CCC1)C(=O)C=1SC=CC1)C1=CC(=CC=C1)OC | C17H19NO3S
